US07863310B2
1-Cyclopropylmethyl-6-(2-(2,6-difluorophenyl)-4-phenyl-1H-imidazol-5-yl)-1H-benzimidazole
Heat a mixture of 2-(2,6-difluorophenyl)-4-phenyl-5-(3-(cyclopropylmethyl)amino-4-aminophenyl)imidazole (0.100 g, 0.24 mmol) and trimethylorthoformate (2 mL) in acetic acid (4 mL) at 120° C. for 1 hour. Cool the reaction mixture to room temperature and concentrate under reduced pressure. Dilute the residue with methanol and pour over an SCX column, eluting sequentially with methanol followed by 2N ammonia in methanol. Combine the basic fractions and concentrate under reduced pressure. Subject the residue to silica gel chromatography, eluting with 95:5 dichloromethane:methanol to provide the title compound as a white solid.

reactant | 2-(2,6-difluorophenyl)-4-phenyl-5-(3-(cyclopropylmethyl)amino-4-aminophenyl)imidazole | 0.24 mmol, 0.100 g | FC1=C(C(=CC=C1)F)C=1NC(=C(N1)C1=CC=CC=C1)C1=CC(=C(C=C1)N)NCC1CC1 | C25H22F2N4
reactant | trimethylorthoformate | 2 mL | COC(OC)OC | C4H10O3
solvent | acetic acid | 4 mL | C(C)(=O)O | C2H4O2
product | 1-Cyclopropylmethyl-6-(2-(2,6-difluorophenyl)-4-phenyl-1H-imidazol-5-yl)-1H-benzimidazole | C1(CC1)CN1C=NC2=C1C=C(C=C2)C2=C(N=C(N2)C2=C(C=CC=C2F)F)C2=CC=CC=C2 | C26H20F2N4
